US05563141
N-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]-4-methylphenylsulphonamide
A mixture of 1-(4-pyridyl)piperazine (1.79 g), N-(4-bromoacetylphenyl)-4-methylphenylsulphonamide (3.68 g) and triethylamine (1.39 ml) in isopropanol (50 ml) was stirred for 18 hours. The precipitated solid was collected, triturated with dichloromethane, filtered and dried. This solid was further purified by flash chromatography on neutral alumina eluting successively with dichloromethane, 2.5% v/v methanol/dichloromethane then 5% v/v methanol/dichloromethane. Evaporation of the desired fractions to a small volume followed by addition of dichloromethane gave a crystalline solid. This solid was collected, washed with dichloromethane to give the title compound, 440 mg, as crystals: m.p. 168°-170° C.; NMR (d6DMSO) δ8.14(2H,d), 7.86(2H,d), 7.71(2H,d), 7.35(2H,d), 7.18(2H,d), 6.80(2H,d), 3.79(2H,s), 3.31(4H,t), 2.59(4H t), 2.33(3H,s); m/e 451 (M+H)+ ; calculated for C24H26N4O3S: C, 64.0; H, 5.8; N, 12.4. found C, 63.4; H, 5.7; N, 12.2%.

reactant | 1-(4-pyridyl)piperazine | 1.79 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | N-(4-bromoacetylphenyl)-4-methylphenylsulphonamide | 3.68 g | BrCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C15H14BrNO3S
reactant | triethylamine | 1.39 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]-4-methylphenylsulphonamide | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C24H26N4O3S
